US07420001B2
Coupling of isopropylsulfonamide with 3-methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid ethyl ester was carried out according to Example 36, Step 1 to give 3-methyl-4-(propane-2-sulfonylamino)-benzofuran-2-carboxylic acid ethyl ester in 23% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.4 (t, J=6.4 Hz, 9 H) 2.9 (t, 3 H) 3.5 (m, 1 H) 4.5 (q, J=7.1 Hz, 2 H) 6.6 (s, 1 H) 7.4 (m, 3 H).

reactant | isopropylsulfonamide | C(C)(C)S(=O)(=O)N | C3H9NO2S
reactant | 3-methyl-4-trifluoromethanesulfonyloxy-benzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OS(=O)(=O)C(F)(F)F | C13H11F3O6S
product | 3-methyl-4-(propane-2-sulfonylamino)-benzofuran-2-carboxylic acid ethyl ester | 23% yield | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)NS(=O)(=O)C(C)C | C15H19NO5S
